US05219881
Using the procedure described in Example 1, 2-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]propane-1,2-diol was reacted with acetone to give 2,2,4-trimethyl-4-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]-1,3-dioxolane in 76% yield, as an oil.

reactant | 2-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]propane-1,2-diol | C1(=CC=CC=C1)C#CCOC=1C=C(C=NC1)C(CO)(C)O | C17H17NO3
reactant | acetone | CC(=O)C | C3H6O
product | 2,2,4-trimethyl-4-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]-1,3-dioxolane | 76% yield | CC1(OCC(O1)(C=1C=NC=C(C1)OCC#CC1=CC=CC=C1)C)C | C20H21NO3
